US07348359B2
A mixture of 198 mg (0.41 mmol) of 3-{4-[2-(2,2,2-trifluoroethoxy)-3-tert-butyl-5-methylphenyl]benzo[b]thien-2-yl}but-2-enoic acid ethyl ester disolved in 4 mL of methanol, 5 mL of THF and 1 mL of a 2N aqueous solution of LiOH was heated to reflux for 2 hours. After cooling at room temperature and acidic work-up, the crude acid was purified using preparative HPLC (kromosil column, eluent: 8/92 water/methanol+0.1% TFA). Collection of the desired fractions, evaporation of the solvents and recrystallization from acetonitrile affords 110 mg (0.23 mmol, yield: 58%) of 3-{4-[2-(2,2,2-trifluoroethoxy)-3-tert-butyl-5-methylphenyl]benzo[b]thien-2-yl}but-2-enoic acid as a white solid. 1H NMR (400 MHz, CDCl3) d: 7.80 (d, J=8.2 Hz, 1H), 7.43 (t, J=7.7 Hz, 1H), 7.40 (s, 1H), 7.38 (d, J=8.2 Hz, 1H), 7.24 (d, J=1.9 Hz, 1H), 7.06 (d, J=1.9 Hz, 1H), 6.32 (s, 1H), 3.61 (m, 1H), 3.58 (m, 1H), 2.58 (s, 3H), 2.37 (s, 3H), 1.46 (s, 9H).

reactant | 3-{4-[2-(2,2,2-trifluoroethoxy)-3-tert-butyl-5-methylphenyl]benzo[b]thien-2-yl}but-2-enoic acid ethyl ester | 0.41 mmol, 198 mg | C(C)OC(C=C(C)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C)C(C)(C)C)OCC(F)(F)F)=O | C27H29F3O3S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | LiOH | [Li+].[OH-]
solvent | methanol | 4 mL | CO | CH4O
product | 3-{4-[2-(2,2,2-trifluoroethoxy)-3-tert-butyl-5-methylphenyl]benzo[b]thien-2-yl}but-2-enoic acid | 0.23 mmol, 110 mg, yield: 58% | FC(COC1=C(C=C(C=C1C(C)(C)C)C)C1=CC=CC=2SC(=CC21)C(=CC(=O)O)C)(F)F | C25H25F3O3S
